US07605171B2
Step B: 3-Cyano-4-fluorophenyl boronic acid
Trimethylborate (1.37 mL, 12 mmol) was added to a solution of 5-bromo-2-fluorobenzonitrile (2.0 g, 10 mmol) in toluene (16 mL) and THF (4 mL) at −78° C. n-Butyl lithium (2.5M in hexane; 4.8 mL) was slowly added over 1 h and the solution was stirred for 30 min after which it was warmed to rt for 1 h. The reaction was cooled to 0° C. and quenched with 20 mL of 1 N HCl. The product was extracted with ethyl acetate (2×200 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. Silica gel chromatography eluting with 5% methanol/methylene chloride afforded 0.33 g of the desired product.

reactant | Trimethylborate | 12 mmol, 1.37 mL | COB(OC)OC | C3H9BO3
reactant | 5-bromo-2-fluorobenzonitrile | 10 mmol, 2.0 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | n-Butyl lithium | 2.5M, 4.8 mL | C(CCC)[Li]
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 3-Cyano-4-fluorophenyl boronic acid | 0.33 g | C(#N)C=1C=C(C=CC1F)B(O)O | C7H5BFNO2
